US04792563
Triethylamine (2.27 cm3) was added portionwise to a stirred solution of 2-hydroxymethyl-6-phenoxypyridine (3 g), para-toluenesulphonyl chloride (3.7 g), and 4-dimethylaminopyridine (1.17 g) in dichloromethane (30 cm3), whilst the reaction mixture was maintained at the ambient temperature (ca. 22° C.) under an atmosphere of nitrogen. After a period of four hours, the reaction mixture was poured into diethyl ether, and washed sequentially with saturated aqueous sodium bicarbonate, water and brine. The organic layer was then dried, and after removal of the solvent by evaporation under reduced pressure, the crude product was subjected to column chromatography on silica gel using dichloromethane as eluent to give 2-chloromethyl-6-phenoxypyridine (2.05 g).

reactant | Triethylamine | 2.27 cm3 | C(C)N(CC)CC | C6H15N
reactant | 2-hydroxymethyl-6-phenoxypyridine | 3 g | OCC1=NC(=CC=C1)OC1=CC=CC=C1 | C12H11NO2
reactant | para-toluenesulphonyl chloride | 3.7 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | diethyl ether | C(C)OCC | C4H10O
catalyst | 4-dimethylaminopyridine | 1.17 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 30 cm3 | ClCCl | CH2Cl2
product | 2-chloromethyl-6-phenoxypyridine | 2.05 g | ClCC1=NC(=CC=C1)OC1=CC=CC=C1 | C12H10ClNO
